US07989438B2
Step 9: methyl 14-cyclohexyl-7(R,S)-(2-{methyl[3-(methylamino)propyl]amino}ethyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
A solution of methyl 14-cyclohexyl-7(R,S)-{2-[methyl(N-methyl-β-alanyl)amino]ethyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.02 M) in THF was treated dropwise with BH3-DMS complex (2M in THF; 10 eq). The resulting solution was stirred at RT for 3 h. The reaction was quenched by the careful addition of HCl/MeOH (1.25 M) and the resulting solution refluxed for 2 h. The mixture was cooled before concentrating in vacuo. The crude material was purified by FC (EtOAc/MeOH/Et3N 90:8:2) affording the product as a yellow oil (48%, over steps 8, 9). (ES+) m/z 518 (M+H)+.

reactant | methyl 14-cyclohexyl-7(R,S)-{2-[methyl(N-methyl-β-alanyl)amino]ethyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.02 M | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)CCN(C(CCNC)=O)C)C(=O)OC | C32H41N3O4
solvent | THF | C1CCOC1 | C4H8O
product | methyl 14-cyclohexyl-7(R,S)-(2-{methyl[3-(methylamino)propyl]amino}ethyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 48% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)CCN(CCCNC)C)C(=O)OC | C32H43N3O3
